US07189738B2
tert-Butyl 4-[2-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate
450 mg of Pd/C (10%) are added to a mixture of 2.1 g (5.4 mmol) of tert-butyl 4-[2-(4-nitro-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate in 25 ml of methanol. The mixture is stirred at atmospheric pressure under an atmosphere of hydrogen for 2 h and, after filtration through Celite, concentrated. The product is purified by column filtration on silica gel (dichloromethane/methanol 9:1).

reactant | tert-butyl 4-[2-(4-nitro-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate | 5.4 mmol, 2.1 g | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)CCC1CCN(CC1)C(=O)OC(C)(C)C | C20H27N3O5
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | tert-Butyl 4-[2-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate | NC1=C2CN(C(C2=CC=C1)=O)CCC1CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O3
